US07514452B2
A reaction and treatment was carried out in the same manner as in Reference Example 5(1) using ethyl 3,4-dibromo-2-furancarboxylate (2.00 g) and 3-benzyloxyphenylboronic acid (1.80 g). The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/20), thereby giving 1.70 g of a mixture of ethyl 3-(3-benzyloxyphenyl)-4-bromo-2-furancarboxylate and ethyl 4-(3-benzyloxyphenyl)-3-bromo-2-furancarboxylate and 0.26 g of ethyl 3,4-bis(3-benzyloxyphenyl)-2-furancarboxylate.

reactant | ethyl 3,4-dibromo-2-furancarboxylate | 2.00 g | BrC1=C(OC=C1Br)C(=O)OCC | C7H6Br2O3
reactant | 3-benzyloxyphenylboronic acid | 1.80 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)B(O)O | C13H13BO3
product | ethyl 3,4-bis(3-benzyloxyphenyl)-2-furancarboxylate | 0.26 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(OC=C1C1=CC(=CC=C1)OCC1=CC=CC=C1)C(=O)OCC | C33H28O5
